US05424280
Preparation of Methyl {o-[5-(methoxymethoxy)-2-nitrophenoxy]phenoxy}acetate
A mixture of 2-fluoro-4-(methoxymethoxy)-1-nitrobenzene (9.25 g, 0.046 mol), methyl (o-hydroxyphenoxy)acetate (8.5 g, 0.047 mol) and potassium carbonate (6.44 g, 0.047 mol) in N,N-dimethylformamide is stirred at 100° C. for 18 hours, cooled to room temperature, poured into water and extracted with ether. The organic extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain an orange gum. Flash chromatography of the gum using silica gel and a 35% ethyl acetate in hexanes solution gives the title product as a yellow oil (3.6 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 2-fluoro-4-(methoxymethoxy)-1-nitrobenzene | 0.046 mol, 9.25 g | FC1=C(C=CC(=C1)OCOC)[N+](=O)[O-] | C8H8FNO4
reactant | methyl (o-hydroxyphenoxy)acetate | 0.047 mol, 8.5 g | OC1=C(OCC(=O)OC)C=CC=C1 | C9H10O4
reactant | potassium carbonate | 0.047 mol, 6.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl {o-[5-(methoxymethoxy)-2-nitrophenoxy]phenoxy}acetate | 3.6 g | COCOC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-] | C17H17NO8
